US04233333
A mixture of 1.0 gm (4.6 millimols) of 4.5 -dimethyl-2-sulfamoyl-furan-3-carboxylic acid and 0.96 gm (4.6 millimols) of phosphorus pentachloride in toluene was reacted analogous to Example 1, yielding 0.68 gm (73% of theory) of 4,5-dimethyl-furo[3,2-d]isothiazole-3-(2H)-one-1,1-dioxide. Rf -value: 0.21 (silica gel 60 F254 plates, thickness 0.25 mm, eluant ethylene chloride; ethyl acetate; glacial acetic acid 100:30:5).

reactant | 4.5 -dimethyl-2-sulfamoyl-furan-3-carboxylic acid | 4.6 millimols, 1.0 gm | CC=1C(=C(OC1C)S(N)(=O)=O)C(=O)O | C7H9NO5S
reactant | phosphorus pentachloride | 4.6 millimols, 0.96 gm | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5-dimethyl-furo[3,2-d]isothiazole-3-(2H)-one-1,1-dioxide | 0.68 gm, 73% | CC1=C(OC2=C1C(NS2(=O)=O)=O)C | C7H7NO4S
